US08486939B2
A mixture of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole (92 mg, 0.25 mmol) and benzylamine (67 mg, 0.625 mmol) in dioxane (5 mL) was heated to reflux for 5 min and cooled. The mixture was diluted with water to give a white precipitate, which was recrystallised from EtOH to give 73 mg (67% yield) of N-benzyl-4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-amine: mp 185-188° C.; 1H NMR (CDCl3) (rotamers) δ 8.41 and 8.28 (2d, J=7.4 and 7.7 Hz, 1H), 7.89 (m, 1H), 7.64 and 7.50 (2t, JHF=53.8 and 53.7 Hz, 1H), 7.43-7.29 (m, 7H), 5.62 (m, exchangeable with D2O, 1H), 4.72 and 4.68 (2d, J=6.0 and 5.9 Hz, 2H), 3.89 (m, 4H), 3.78 (m, 4H); Anal. Calc. for C22H21F2N7O: C, 60.4; H, 4.8; N, 22.4. Found: C, 60.6; H, 4.8; N, 22.7%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 0.25 mmol, 92 mg | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | benzylamine | 0.625 mmol, 67 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | N-benzyl-4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-amine | 73 mg, 67% yield | C(C1=CC=CC=C1)NC1=NC(=NC(=N1)N1C(=NC2=C1C=CC=C2)C(F)F)N2CCOCC2 | C22H21F2N7O
